US06172057B2
2-(4-Methoxy-phenylsulfanyl)-pentanoic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from ethyl 2-bromovalerate (8.23 g, 39.3 mmol) and 4-methoxythiophenol (5 g, 35.7 mmol), 10.46 g (100%); clear oil; MS: 269 (M+H)+.

reactant | ethyl 2-bromovalerate | 39.3 mmol, 8.23 g | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | 4-methoxythiophenol | 35.7 mmol, 5 g | COC1=CC=C(C=C1)S | C7H8OS
product | 2-(4-Methoxy-phenylsulfanyl)-pentanoic acid ethyl ester | C(C)OC(C(CCC)SC1=CC=C(C=C1)OC)=O | C14H20O3S
